US04279912
1.28 g of ethyl 5-bromoimidazo-[1,2-a]-quinoline-2-carboxylate were heated on a steam bath with 5 ml of 1 N sodium hydroxide solution in 20 ml of water and 50 ml of ethanol until a clear solution was obtained (approx. 15 mins). 5 ml of 1 N hydrochloric acid were then added thereto and the solution was allowed to cool slowly to room temperature. The pale green crystals thus formed were filtered off and were washed with methanol. The mother liquors were reduced in volume and cooled to give a second crop. The two crops were combined in 50 ml of chloroform and 50 methanol and the solution obtained was decolorized with charcoal. The solution was reduced in volume under vacuum and the residue was cooled in ice to give colorless plates of 5-bromoimidazo-[1,2-a]-quinoline-2-carboxylic acid melting at 288°-90° C. (decomp).

reactant | ethyl 5-bromoimidazo-[1,2-a]-quinoline-2-carboxylate | 1.28 g | BrC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)OCC | C14H11BrN2O2
reactant | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
reactant | charcoal | C | CH4
solvent | water | 20 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 5-bromoimidazo-[1,2-a]-quinoline-2-carboxylic acid | BrC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)O | C12H7BrN2O2
